US04261996
4,9-Dihydro-5-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide.
To a solution of 4,9-dihydro-5-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid (4.86 g; 0.02 mole) in dimethylformamide (50 ml) is added 1,1'-carbonyldiimidazole (4.86 g; 0.03 mole). The reaction mixture is heated at 100° C. for 12 min, then cooled and diluted with ether (75 ml) and methylene chloride (25 ml). The tan solid is filtered off and suspended in cold (0° C.) DMF (50 ml). Annydrous ammonia is bubbled through for 10 min and the resulting solution is allowed to stand at room temperature overnight. The dimethylformamide solution is evapoated to dryness under reduced pressure and the residue is washed with methylene chloride and ether and dried. Yield 3.0 g; mp 340°-345° C. (d). By the same procedure, starting with the corresponding 8-trifluoromethyl compound, the product obtained is 4,9-dihydro-8-trifluoromethyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide.

reactant | 4,9-dihydro-5-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | 0.02 mole, 4.86 g | CC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)O)=O | C12H9N3O3
reactant | 1,1'-carbonyldiimidazole | 0.03 mole, 4.86 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4,9-dihydro-8-trifluoromethyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | FC(C=1C=2C(N3C(NC2C=CC1)=CC(=N3)C(=O)N)=O)(F)F | C12H7F3N4O2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | 75 ml | CCOCC | C4H10O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 4,9-Dihydro-5-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxamide | CC1=CC=CC=2C(N3C(NC12)=CC(=N3)C(=O)N)=O | C12H10N4O2
